US05840732
ii) Synthesis of 5-butylidene-3-[4-(3-bromoimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.11 g (2.44 mmol) of 5-butylidene-3-[4-(3-bromoimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 30 ml of methanol, 0.25 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.18 g (98.5%, yellow oily substance) of the desired product.

reactant | 5-butylidene-3-[4-(3-bromoimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 2.44 mmol, 1.11 g | C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)Br)=O | C18H20BrN3O2S2
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 5-butylidene-3-[4-(3-bromoimidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C(=CN2)Br)=O | InChI=1S/C18H20BrN3O2S2.ClH/c1-2-3-7-13-17(23)21(18(24)26-13)10-4-5-11-25-16-9-6-8-15-20-12-14(19)22(15)16;/h6-9,12H,2-5,10-11H2,1H3;1H
